US09351965B2
A reaction mixture of tert-butyl 3-oxocyclohexylcarbamate (4 mmol, 852 mg) and benzylamine (4 mmol, 436 μL) in refluxing toluene (25 mL) in a Dean-Stark apparatus was stirred for overnight. The product, tert-butyl 3-(benzylimino)cyclohexylcarbamate, was obtained after evaporation of solvent.

reactant | tert-butyl 3-oxocyclohexylcarbamate | 4 mmol, 852 mg | O=C1CC(CCC1)NC(OC(C)(C)C)=O | C11H19NO3
reactant | benzylamine | 4 mmol, 436 μL | C(C1=CC=CC=C1)N | C7H9N
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
product | tert-butyl 3-(benzylimino)cyclohexylcarbamate | C(C1=CC=CC=C1)N=C1CC(CCC1)NC(OC(C)(C)C)=O | C18H26N2O2
